US06417362B1
10% Pd—C (20 mg) was added to a solution of 3,3-bis (4-methoxyphenyl)-propenenitrile (50 mg), synthesized by the process described in a literature J. Med. Chem., 32, 1820 (1989), in dioxane (5 ml), followed by hydrogenation for 2 hr. Pd—C was removed by filtration through Celite. The solvent was then removed by distillation to give 3,3-bis(4-methoxyphenyl)-propanenitrile (38 mg).

reactant | 3,3-bis (4-methoxyphenyl)-propenenitrile | 50 mg | COC1=CC=C(C=C1)C(=CC#N)C1=CC=C(C=C1)OC | C17H15NO2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd—C | 20 mg | [Pd] | Pd
product | 3,3-bis(4-methoxyphenyl)-propanenitrile | 38 mg | COC1=CC=C(C=C1)C(CC#N)C1=CC=C(C=C1)OC | C17H17NO2
